US08604019B2
Step 2. Preparation of tert-Butyl [(3-aminooxetan-3-yl)methyl]carbamate
A mixture of tert-butyl {[3-(dibenzylamino)oxetan-3-yl]methyl}carbamate (13.0 g, crude), 20% palladium hydroxide on carbon (2.0 g) and trifluoroacetic acid (0.5 mL) in methanol (20 mL) was stirred overnight under hydrogen atmosphere (1 bar). After being basified with ammonia solution in methanol, the resulting mixture was filtered and concentrated in vacuo to afford 5.8 g of the crude product, which was used for the next step without any purification.

reactant | tert-butyl {[3-(dibenzylamino)oxetan-3-yl]methyl}carbamate | 13.0 g | C(C1=CC=CC=C1)N(C1(COC1)CNC(OC(C)(C)C)=O)CC1=CC=CC=C1 | C23H30N2O3
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | N | H3N
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 2.0 g | [OH-].[OH-].[Pd+2]
product | tert-Butyl [(3-aminooxetan-3-yl)methyl]carbamate | 5.8 g | NC1(COC1)CNC(OC(C)(C)C)=O | C9H18N2O3
